US05006570
Step I - Preparation of Methyl 2-allyloxy-4-methylbenzoate-Intermediate (D-1)
265 g of potassium carbonate, 637 ml of acetonitrile, 300 g of benzyl tributylammonium and 279 g of allyl bromide were introduced into a 4-liter round-bottomed flask and 391.5 g of methyl 2-hydroxy-4-methylbenxzoate were then added slowly. The temperature rose up to 36° C. The contents were then heated under reflux, with vigorous stirring, for 4 hours and then cooled and the reaction mixture poured into 7 liters of water. The oily layer formed was decanted and extracted with ether and the solution containing ether was then dried over sodium sulphate. The ether was then distilled off, the distillation towards the end being carried out under vacuum, until a constant weight was obtained.

reactant | potassium carbonate | 265 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetonitrile | 637 ml | C(C)#N | C2H3N
reactant | benzyl tributylammonium | 300 g | C(C1=CC=CC=C1)[N+](CCCC)(CCCC)CCCC
reactant | allyl bromide | 279 g | C(C=C)Br | C3H5Br
reactant | water | 7 liters | O | H2O
product | Methyl 2-allyloxy-4-methylbenzoate | C(C=C)OC1=C(C(=O)OC)C=CC(=C1)C | C12H14O3
